US07129233B2
(i) 2-Fluoro-4-vinylbenzonitrile
A solution of 4-bromo-2-fluorobenzonitrile (4.92 g, 0.0246 mol), vinyltributyltin (0.78 g, 0.246 mol), and tetrakistriphenylphosphine (0.67 g, 0.58 mmol) in 250 mL of toluene was refluxed under nitrogen overnight. The solvent was evaporated and the residue was flash chromatographed on silica gel with heptane:CH2Cl2 (1:1) to pure CH2Cl2. A colourless oil was obtained that crystallised. Yield: 3.0 g (82%).

reactant | 4-bromo-2-fluorobenzonitrile | 0.0246 mol, 4.92 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | vinyltributyltin | 0.246 mol, 0.78 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Fluoro-4-vinylbenzonitrile | FC1=C(C#N)C=CC(=C1)C=C | C9H6FN
